US05418239
A mixture of ethyl 4-(3,5-di-tert-butyl-4-hydroxy -phenyl)-2-oxo-2,6,7,8-tetrahydrocyclopenta [g] [1]benzopyran-3-carboxylate (1.85 g), potassium hydroxide (1.12 g) and 80% ethanol (12 ml) was stirred at room temperature for 3 hours. The reaction mixture was then diluted with water, adjusted to pH4 with 6N HCl and extracted with ethyl acetate. The extract was washed with water and dried (MgSO4) and the solvent was distilled off to give crystals of 4-3,5-di-tert-butyl-4-hydroxyphenyl)-2-oxo-2,6,7,8-tetrahydrocyclopenta[g] [1]benzopyran-3-carboxylic acid. The crystals were collected by filtration and washed with isopropyl ether (1.13 g, 64.9%). mp. 256°-260° C.

reactant | ethyl 4-(3,5-di-tert-butyl-4-hydroxy -phenyl)-2-oxo-2,6,7,8-tetrahydrocyclopenta [g] [1]benzopyran-3-carboxylate | 1.85 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=C(C(OC2=C1C=C1C(=C2)CCC1)=O)C(=O)OCC | C29H34O5
reactant | potassium hydroxide | 1.12 g | [OH-].[K+]
reactant | ethanol | 12 ml | C(C)O | C2H6O
reactant | HCl | 6N | Cl | ClH
solvent | water | O | H2O
product | 2-oxo-2,6,7,8-tetrahydrocyclopenta[g] [1]benzopyran-3-carboxylic acid | O=C1OC2=C(C=C1C(=O)O)C=C1C(=C2)CCC1 | C13H10O4
